US07645789B2
SOCl2 (3.6 g, 30 mol) was added dropwise to a solution of 2-tert-butyl-5-nitro-1H-indole-7-carboxylic acid (4.0 g, 15 mol) and methanol (30 mL) at 0° C. The mixture was stirred at 80° C. for 12 h. The solvent was evaporated under vacuum and the residue was purified by column chromatography on silica gel (5% EtOAc in petroleum ether) to afford methyl 2-tert-butyl-5-nitro-1H-indole-7-carboxylate (2.95 g, 70%). 1H NMR (CDCl3, 300 MHz) δ 9.99 (brs, 1H), 8.70 (d, J=2.1 Hz, 1H), 8.65 (d, J=2.1 Hz, 1H), 6.50 (d, J=2.4 Hz, 1H), 4.04 (s, 3H), 1.44 (s, 9H).

reactant | SOCl2 | 30 mol, 3.6 g | O=S(Cl)Cl | Cl2OS
reactant | 2-tert-butyl-5-nitro-1H-indole-7-carboxylic acid | 15 mol, 4.0 g | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])C(=O)O | C13H14N2O4
reactant | methanol | 30 mL | CO | CH4O
product | methyl 2-tert-butyl-5-nitro-1H-indole-7-carboxylate | 2.95 g, 70% | C(C)(C)(C)C=1NC2=C(C=C(C=C2C1)[N+](=O)[O-])C(=O)OC | C14H16N2O4
